US07189741B2
This compound was prepared following the procedure described in example 13 (part B) at room temperature for 15 hours, starting with 4 g (0.015 mol) of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 2.07 mL (0.018 mol) of 2-(2-bromo-ethyl)-[1,3]dioxolane. After standard work-up, 5.3 g of 4-[1-(2-[1,3]dioxolan-2-yl-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 0.015 mol, 4 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 2-(2-bromo-ethyl)-[1,3]dioxolane | 0.018 mol, 2.07 mL | BrCCC1OCCO1 | C5H9BrO2
product | 4-[1-(2-[1,3]dioxolan-2-yl-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 5.3 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCC1OCCO1 | C21H28N2O4
